US04362736
In 10 ml of dimethylformamide was dissolved 1.2 g of 3-[2-guanidinothiazol-4-ylmethylthio]propionamidine and after adding 0.4 g of triethylamine to the solution and cooling the mixture below 15° C., a solution of 1.4 g of acetyl chloride in 3 ml of chloroform was added dropwise to the mixture. Thereafter, the mixture was stirred for 30 minutes at room temperature and then the solvent was distilled off. To the residue formed was added a solution of 0.8 g of potassium carbonate in 2 ml of water. After distilling off water, the residue was subjected to a silica gel column chromatography and the product was developed by a mixture of chloroform and methanol. Then, the eluant was distilled off to provide 0.3 g of N,N'-diacetyl-3-(2-guanidinothiazol-4-ylmethylthio)propionamidine. The product was added to a solution of 0.2 g of maleic acid in 10 ml of acetone followed by stirring for 30 minutes at room temperature. The precipitates formed were collected by filtration to provide 0.2 g of N,N'-diacetyl-3-(2-guanidinothiazol-4-ylmethylthio)-propionamidine.1/2maleate.H2O showing a melting point of 180°-181° C.

reactant | 3-[2-guanidinothiazol-4-ylmethylthio]propionamidine | 1.2 g | N(C(=N)N)C=1SC=C(N1)CSCCC(=N)N | C8H14N6S2
reactant | triethylamine | 0.4 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 1.4 g | C(C)(=O)Cl | C2H3ClO
reactant | potassium carbonate | 0.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 2 ml | O | H2O
product | N,N'-diacetyl-3-(2-guanidinothiazol-4-ylmethylthio)propionamidine | 0.3 g | C(C)(=O)NC(CCSCC=1N=C(SC1)NC(=N)N)=NC(C)=O | C12H18N6O2S2
